US04275077
4-(α-naphthoxy)-3-chloro-nitrobenzene
To a solution of 144 g (1 mol) of α-naphthol in 1 liter of xylene were added 65 g (1 mol) of finely powdered 88% potassium hydroxide. The mixture thus obtained was boiled under N2 -atmosphere in an apparatus equipped with an effective water trap under constant stirring until no water was separating any more and the head temperature had risen to 137° C. Then, 500 ml of dimethylformamide were added, The solution thus obtained was boiled for a further two hours under nitrogen in the apparatus equippped with an effective water trap; then, 500 ml of solvent were distilled therefrom. The residue was allowed to cool off under nitrogen to 100° C., and 211 g (1 mol) of 3,4-dichloronitrobenzene and 1 g of copper powder were added. Then it was refluxed under nitrogen while stirring for 8 hours (approx. 140° C. bottom temperature). Afterwards it was allowed to cool off to ~50° C., approx. 30 g of kieselguhr were added, the mixture thus obtained was stirred, and the undissolved substance was removed by suction filtration and washed with xylene. The filtrate united with the wash liquid was evaporated in vacuo to dryness. The residue was dissolved in warm toluene. The obtained solution was extracted thrice with separate portions of 500 ml of 1 N sodium hydroxide solution and, subsequently, twice with separate portions of 500 ml of water. Then, the toluene phase was evaporated to dryness in vacuo (crude yield: 290 g, 96% of theory). The residue was stirred with 1.7 liter of gasoline (boiling range 80°-110° C.) at approx. 85° C. Most of the crude product dissolved; some resin remain undissolved. The solution decanted therefrom was allowed to cool off slowly. First, the product precipitated oily; however, by trituration at approx. 50° C., crystals were obtained. Then it was cooled for several hours to 5° C. and the crystalline product was removed by suction filtration.

reactant | α-naphthol | 1 mol, 144 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | 3,4-dichloronitrobenzene | 1 mol, 211 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | xylene | 1 liter | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 1 g | [Cu] | Cu
product | 4-(α-naphthoxy)-3-chloro-nitrobenzene | C1(=CC=CC2=CC=CC=C12)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C16H10ClNO3
